US06531502B1
3-[3-(3-Dimethylaminopropyl)-1H-indol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide (98 mg, 0.43 mmol) was condensed with 3-(3-dimethylaminopropyl)-1H-indole-2-carbaldehyde (100 mg) to give the title compound as an orange solid.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 0.43 mmol, 98 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | 3-(3-dimethylaminopropyl)-1H-indole-2-carbaldehyde | 100 mg | CN(CCCC1=C(NC2=CC=CC=C12)C=O)C | C14H18N2O
product | 3-[3-(3-Dimethylaminopropyl)-1H-indol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | CNS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=CC=C2C1CCCN(C)C | C23H26N4O3S
